US07696223B2
a) 1-(4-Methoxy-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester
2-Bromoacetaldehyde (prepared from the distillates from heating 18.212 g of 2-bromoacetaldehyde diethyl acetal and 25.63 g of oxalic acid dihydrate, see U.S. Pat. No. 4,087,539 for detail) was added to an ice/water bath cooled mixture of ethyl acetoacetate sodium salt (9.84 g) in ethanol (100 mL) carefully; after addition, the mixture was stirred at rt for 1 h and para-anisidine (9.56 g) was added, the resulting mixture was subsequently refluxed in an oil bath for 1 h. Then, reaction was cooled, solvents were removed, the residue was partitioned between EtOAc and 1 M HCl aqueous solution; the organic phase was sequentially washed with water, sat. NaCl solution and dried over anhydrous sodium sulfate, filtered, concentrated; the resulting residue was column-purified to give the desired product (8.08 g). The title compound, ESI MS (m/z): 260 (M+H)+.

reactant | 2-Bromoacetaldehyde | BrCC=O | C2H3BrO
reactant | 2-bromoacetaldehyde diethyl acetal | 18.212 g | C(C)OC(CBr)OCC | C6H13BrO2
reactant | oxalic acid dihydrate | 25.63 g | O.O.C(C(=O)O)(=O)O
reactant | ethyl acetoacetate sodium salt | 9.84 g | [Na].C(CC(=O)C)(=O)OCC
reactant | para-anisidine | 9.56 g | COC1=CC=C(C=C1)N | C7H9NO
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 1-(4-Methoxy-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 8.08 g | C(C)OC(=O)C1=C(N(C=C1)C1=CC=C(C=C1)OC)C | C15H17NO3
